US06887896B1
7-(3-Ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-3-methyl-nona-2E,4E,6Z-trienoic acid (Compound A-16)
A solution of ethyl 7-(3-ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-3-methyl-nona-2E,4E,6Z-trienoate (Compound A-13, 0.82 g, 2.01 mmol) in ethanol (5 mL) and THF (5 mL) was treated with 2M NaOH (5 mL, 10 mmol) and then stirred at 50° C. for 5 h. The mixture was cooled to room temperature, acidified with 10% HCl, and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by recrystallization from acetonitrile to yield the title compound as a white solid.

reactant | ethyl 7-(3-ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-3-methyl-nona-2E,4E,6Z-trienoate | 2.01 mmol, 0.82 g | C(C)OC=1C(=CC=2C(=CCC(C2C1)(C)C)C)\C(=C/C=C/C(=C/C(=O)OCC)/C)\CC | C27H36O3
reactant | NaOH | 10 mmol, 2M, 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(3-Ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-3-methyl-nona-2E,4E,6Z-trienoic acid | C(C)OC=1C(=CC=2C(=CCC(C2C1)(C)C)C)\C(=C/C=C/C(=C/C(=O)O)/C)\CC | C25H32O3
